US05639776
Preparation of 1-phenyl-3-(4-methylphenyl)-4, 5-dihydropyrazol-5-one
A mixture of 15 g (64 mmol) of ethyl α-(4-methylbenzoyl)isobutyrate, 10 g (93 mmol) of phenyl-hydrazine and 100 ml of toluene was dehydrated under reflux in the presence of p-toluenesulfonic acid monohydrate (catalytic amount) for 18 hours. The reaction solution was washed successively with 1N sodium hydroxide, 1N hydrochloric acid and saturated brine solution, and dried over anhydrous magnesium sulfate. Then the solvent was evaporated under reduced pressure. The obtained crude product was recrystallized from methanol to give 15 g of the object compound as white crystals (yield 84%).

reactant | ethyl α-(4-methylbenzoyl)isobutyrate | 64 mmol, 15 g | CC1=CC=C(C(=O)C(C(=O)OCC)(C)C)C=C1 | C14H18O3
reactant | phenyl-hydrazine | 93 mmol, 10 g | C1(=CC=CC=C1)NN | C6H8N2
reactant | p-toluenesulfonic acid monohydrate | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | 1-phenyl-3-(4-methylphenyl)-4, 5-dihydropyrazol-5-one | 15 g, yield 84% | C1(=CC=CC=C1)N1N=C(CC1=O)C1=CC=C(C=C1)C | C16H14N2O
